### PR TITLE
feat: add alive_DivRemOfSelect

### PR DESCRIPTION
**Pull request by tobiasgrosser**

### CODE REVIEW

File: SSA/Projects/InstCombine/ForLean.lean [hunk 1]
```diff
@@ -1,6 +1,37 @@
...
 import SSA.Projects.InstCombine.Tactic -- TODO: remove and get rid of ring_nf use
 
+def two_pow_eq_pow_pred_times_two {h : 0 < w} : 2 ^ w = 2 ^ (w-1) * 2 := by
+  simp only [← pow_succ, gt_iff_lt, Nat.ofNat_pos, ne_eq, OfNat.ofNat_ne_one,
+    not_false_eq_true, pow_right_inj]
+  rw [Nat.sub_add_cancel]
+  omega
+
+def two_pow_eq_two_pow_pred_add_two_pow_pred {h : 0 < w} :
+    (2) ^ w = (2^(w-1)) + (2^(w-1)) := by
```
Comment (bollu) [inline SSA/Projects/InstCombine/ForLean.lean:11]:
```suggestion
    2 ^ w = 2^(w-1) + 2^(w-1) := by
```

File: SSA/Projects/InstCombine/ForLean.lean [hunk 2]
```diff
@@ -1,6 +1,37 @@
...
+  rw [two_pow_eq_pow_pred_times_two, mul_two]
+  omega
+
+def two_pow_gt_two_pow_pred {h : 0 < w} : 2 ^ w > 2 ^ (w - 1) := by
+  simp [@two_pow_eq_two_pow_pred_add_two_pow_pred w h]
```
Comment (bollu) [inline SSA/Projects/InstCombine/ForLean.lean:16]:
```suggestion
def two_pow_gt_two_pow_pred {h : 0 < w} : 2 ^ w > 2 ^ (w - 1) :=
  @two_pow_eq_two_pow_pred_add_two_pow_pred (h := h)
```

File: SSA/Projects/InstCombine/ForLean.lean [hunk 3]
```diff
@@ -1,6 +1,37 @@
...
+
+def two_pow_pred_lt_two_pow {h : 0 < w} : 2 ^ (w - 1) < 2 ^ w := by
+  simp [two_pow_eq_pow_pred_times_two, h]
+
+@[simp]
+def two_pow_sub_two_pow_pred_eq_two_pow_pred {h : 0 < w} :
+    2 ^ w - 2 ^ (w - 1) = 2 ^ (w - 1) := by
+  simp [@two_pow_eq_two_pow_pred_add_two_pow_pred w h]
+
+def Nat.eq_one_of_mod_two_ne_zero (n : Nat) (hn : n % 2 != 0) : n % 2 = 1 := by
```
Comment (bollu) [inline SSA/Projects/InstCombine/ForLean.lean:26]: I would prefer the theorem statement to talk about `mod 2`, and to drop the `mod 2` fact in the assumption in how we spell the theorem:

```suggestion
def Nat.eq_one_mod_two_of_ne_zero (n : Nat) (hn : n % 2 != 0) : n % 2 = 1 := by
```

File: SSA/Projects/InstCombine/ForLean.lean [hunk 4]
```diff
@@ -1,6 +1,37 @@
...
+  simp at hn
+  assumption
+
+def Nat.sub_mod_of_lt (n x : Nat) (hxgt0 : x > 0) (hxltn : x < n) : (n - x) % n = n - x := by
+  rcases n with zero | n <;> simp
```
Comment (bollu) [inline SSA/Projects/InstCombine/ForLean.lean:31]:
```suggestion
  rcases n with rfl | n <;> simp
```

Use `rfl` when matching with `rcases` to make it clear that you're asking for substitution.

File: SSA/Projects/InstCombine/ForLean.lean [hunk 5]
```diff
@@ -1,6 +1,37 @@
 import Mathlib.Data.Nat.Size -- TODO: remove and get rid of shiftLeft_eq_mul_pow use
 import SSA.Projects.InstCombine.Tactic -- TODO: remove and get rid of ring_nf use
 
+def two_pow_eq_pow_pred_times_two {h : 0 < w} : 2 ^ w = 2 ^ (w-1) * 2 := by
```
Comment (bollu) [inline SSA/Projects/InstCombine/ForLean.lean:4]:
```suggestion
lemma two_pow_eq_pow_pred_times_two {h : 0 < w} : 2 ^ w = 2 ^ (w-1) * 2 := by
```

@tobiasgrosser can you `s/def/lemma` for stuff that lives in `Prop`?

File: SSA/Projects/InstCombine/ForLean.lean [hunk 6]
```diff
@@ -377,6 +408,169 @@ theorem getLsb_geX(x : BitVec w) (hi : i ≥ w) :
...
+  unfold BitVec.slt
+  simp
+  simp [BitVec.toInt_ofNat]
+  unfold Int.bmod
+  simp
+  norm_cast
+  have remove_mod : (2) ^ (w - 1) % 2 ^ w = (2) ^ (w - 1) := by
+    rw [Nat.mod_eq_of_lt]
+    apply two_pow_pred_lt_two_pow
+    simp [h]
```
Comment (bollu) [inline SSA/Projects/InstCombine/ForLean.lean:525]: Extract into lemma?

File: SSA/Projects/InstCombine/AliveHandwrittenLargeExamples.lean [hunk 7]
```diff
@@ -451,4 +451,97 @@ Proof:
...
+  Com.ret ⟨/-r-/0, by simp [Ctxt.snoc]⟩
+
+def alive_simplifySelect764 (w : Nat) :
+  Select746_lhs w ⊑ Select746_rhs w := by
+  simp only [Select746_lhs, Select746_rhs]
+  simp only [simp_llvm_wrap]
+  simp_alive_ssa
+  simp_alive_undef
+  intros A
+  rcases A with none | A  <;> simp [Option.bind, Bind.bind]
```
Comment (bollu) [inline SSA/Projects/InstCombine/AliveHandwrittenLargeExamples.lean:504]:
```suggestion
  rcases A with rfl | A  <;> simp [Option.bind, Bind.bind]
```

File: SSA/Projects/InstCombine/AliveHandwrittenLargeExamples.lean [hunk 8]
```diff
@@ -451,4 +451,97 @@ Proof:
...
+        · simp [A_eq_intMin, BitVec.ofInt_zero_eq, sgt_same, intMin_not_gt_zero,
+            intMin_eq_neg_intMin]
+        · have neg_not_sgt_zero : ¬(-A >ₛ BitVec.ofInt w 0) = true → (A >ₛ BitVec.ofInt w 0) = true
+            := (sgt_zero_eq_not_neg_sgt_zero A A_eq_intMin A_eq_zero).mpr
+          apply neg_not_sgt_zero at neg_A_sgt_zero
+          simp only at neg_A_sgt_zero
+          simp only [Bool.not_eq_true] at A_sgt_zero
+          rw [A_sgt_zero] at neg_A_sgt_zero
+          contradiction
+
```
Comment (bollu) [inline SSA/Projects/InstCombine/AliveHandwrittenLargeExamples.lean:541]: Extract lemma?

```
theorem sgt_zero_of_neg_not_sgt_zero (hneg: ¬(-A >ₛ BitVec.ofInt w 0)) : (A >ₛ BitVec.ofInt w 0) := by ...
```

I don't recall off the top of my head if we have a `<ₛ` defined, might make sense to use that instead of negating `>ₛ`, but let's do this for a later cleanup.

**Review by bollu — APPROVED** [review]
@tobiasgrosser I left comments. Please do make the minor nit changes:
- Change `def` to `lemma` wherever appropriate.
- Change the naming of the theorem `eq_one_mod_two_of_ne_zero `.

The other cleanup I leave to your discretion. We can iterate on this if we like.

File: SSA/Projects/InstCombine/AliveHandwrittenLargeExamples.lean (hunk 8 above)
Comment (bollu) [reply SSA/Projects/InstCombine/AliveHandwrittenLargeExamples.lean:541]: It feels like there are more lemmas to be mined from the large proof, it still does "too much unfolding" :)

File: SSA/Projects/InstCombine/AliveHandwrittenLargeExamples.lean [hunk 9]
```diff
@@ -451,4 +451,97 @@ Proof:
...
+    [/- A -/ InstCombine.Ty.bitvec w] .pure (InstCombine.Ty.bitvec w) :=
+  /- c0     = -/ Com.lete (const w 0) <|
+  /- c      = -/ Com.lete (icmp w .slt /-A-/ 1 /-c0-/ 0) <|
+  /- minus  = -/ Com.lete (sub w /-c0-/ 1 /-A-/ 2) <|
+  /- abs    = -/ Com.lete (select w /-c-/ 1/-A-/ 3 /-minus-/ 0) <|
+  /- c3     = -/ Com.lete (icmp w .sgt /-A-/ 4 /-c0-/ 3) <|
+  /- abs2   = -/ Com.lete (select w /-c3-/ 0/-A-/ 5 /-minus-/ 2) <|
+  Com.ret ⟨/-r-/0, by simp [Ctxt.snoc]⟩
+
+def alive_simplifySelect764 (w : Nat) :
```
Comment (bollu) [inline SSA/Projects/InstCombine/AliveHandwrittenLargeExamples.lean:497]:
```suggestion
/- TODO: mine more lemmas -/
def alive_simplifySelect764 (w : Nat) :
```

File: SSA/Projects/InstCombine/ForLean.lean (hunk 6 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/ForLean.lean]: Done.
